US05164402
1. 3-Benzyl-3-azabicyclo[3.1.0]hexane-1-carboxylic acid
A mixture of 3-benzyl-1-cyano-3-azabicyclo-[3.1.0]hexane (2.77 g, 14.0 mmol) and barium hydroxide (4.47 g, 14.2 mmol) in water (100 ml) was heated to reflux for 18 hours. The reaction was then cooled and brought to neutral pH with sulfuric acid. The thick white mixture was filtered and washed twice with ethanol and twice with water. The filtrate was concentrated in vacuo, and the residue mixed with hot ethanol and filtered again. The filtrate was concentrated to provide the title product (2.91 g, 13.4 mmol, 96% yield). 1H NMR (D2O): 7.50 (bs, 5H), 4.36 (s, 2H), 3.9 (bs, 1H), 3.6 (m, 1H), 3.5 (bm, 2H), 2.14 (bs, 1H), 1.53 (bs, 1H), 1.09 (bs, 1H).

reactant | 3-benzyl-1-cyano-3-azabicyclo-[3.1.0]hexane | 14.0 mmol, 2.77 g | C(C1=CC=CC=C1)N1CC2(CC2C1)C#N | C13H14N2
reactant | barium hydroxide | 14.2 mmol, 4.47 g | [OH-].[Ba+2].[OH-]
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | water | 100 ml | O | H2O
product | 3-Benzyl-3-azabicyclo[3.1.0]hexane-1-carboxylic acid | 13.4 mmol, 2.91 g, 96% yield | C(C1=CC=CC=C1)N1CC2(CC2C1)C(=O)O | C13H15NO2
